US05716971
In acetic acid (300 ml) was dissolved 3-chloro-2-(5-chloro-a-cyano-2-methoxymethoxybenzyl)-5-nitropyridine (15.0 g). To the solution were added water (10 ml) and powdery iron (11.4 g). The mixture was stirred for 2 hours at room temperature. The solvent was distilled off under reduced pressure. To the residue were added ethyl acetate and an aqueous solution of sodium carbonate. Insolubles were filtered off by using celite. The organic layer was washed with water and a saturated aqueous saline solution, successively, which was then dried (anhydrous magnesium sulfate), followed by concentration. The concentrate was purified by means of a silica gel column chromatography (eluent: ethyl acetate/hexane) to afford 5-amino-3-chloro-2-(5-chloro-α-cyano-2-methoxymetho-xybenzyl)pyridine (12.4 g) (Compound D-13). Physico-chemical properties and spectrum data are shown in Table 13 and Table 15.

reactant | 3-chloro-2-(5-chloro-a-cyano-2-methoxymethoxybenzyl)-5-nitropyridine | 15.0 g | ClC=1C(=NC=C(C1)[N+](=O)[O-])C(C1=C(C=CC(=C1)Cl)OCOC)C#N | C15H11Cl2N3O4
reactant | water | 10 ml | O | H2O
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 11.4 g | [Fe] | Fe
product | 5-amino-3-chloro-2-(5-chloro-α-cyano-2-methoxymetho-xybenzyl)pyridine | 12.4 g | NC=1C=C(C(=NC1)C(C1=C(C=CC(=C1)Cl)OCOC)C#N)Cl | C15H13Cl2N3O2
